US04328213
3-5 mg labetalol hydrochloride;
5.00 mg R,R-enantiomer hydrochloride of labetalol;

reactant | hydrochloride | 5.00 mg | Cl | ClH
reactant | labetalol | CC(CCC=1C=CC=CC1)NCC(C=2C=CC(=C(C2)C(=O)N)O)O | C19H24N2O3
product | labetalol hydrochloride | CC(CCC=1C=CC=CC1)NCC(C=2C=CC(=C(C2)C(=O)N)O)O.Cl | InChI=1S/C19H24N2O3.ClH/c1-13(7-8-14-5-3-2-4-6-14)21-12-18(23)15-9-10-17(22)16(11-15)19(20)24;/h2-6,9-11,13,18,21-23H,7-8,12H2,1H3,(H2,20,24);1H
